US04239681
Substituting 4-methyl-4,6-androstadiene-3,17,19-trione, 17β-hydroxy-17α-methyl-4,6-androstadiene-3,19-dione and 17β-hydroxy-17α-propinyl-4,6-androstadiene-3,19-dione for the 4,6-androstadiene-3,17,19-trione above results in the formation of 4,7α-dimethyl-4-androstene-3β,17β,9-triol, 7α,17α-dimethyl-4-androstene-3β,17β,19-triol and 7α-methyl-17α-propinyl-4-androstene-3β,17β,19-triol, respectively.

reactant | 4-methyl-4,6-androstadiene-3,17,19-trione | CC1=C2C=C[C@H]3[C@@H]4CCC([C@@]4(C)CC[C@@H]3[C@]2(CCC1=O)C=O)=O | C20H24O3
reactant | 17β-hydroxy-17α-methyl-4,6-androstadiene-3,19-dione | O[C@@]1([C@]2(C)[C@@H](CC1)[C@@H]1C=CC3=CC(CC[C@]3(C=O)[C@H]1CC2)=O)C | C20H26O3
reactant | 17β-hydroxy-17α-propinyl-4,6-androstadiene-3,19-dione | O[C@@]1([C@]2(C)[C@@H](CC1)[C@@H]1C=CC3=CC(CC[C@]3(C=O)[C@H]1CC2)=O)C#CC | C22H26O3
reactant | 4,6-androstadiene-3,17,19-trione | C[C@@]12C(CC[C@H]1[C@@H]1C=CC3=CC(CC[C@]3(C=O)[C@H]1CC2)=O)=O | C19H22O3
product | 4,7α-dimethyl-4-androstene-3β,17β,9-triol | CC1=C2C[C@H]([C@H]3[C@@H]4CC[C@@H]([C@@]4(C)CC[C@@]3([C@]2(CC[C@@H]1O)C)O)O)C | C21H34O3
